US06255333B1
5-Acetamido-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)4-ethynylpyrazole
To a solution of 5-acetamido-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)4-trimethylsilylethynylpyrazole (20 mg, the compound of Example B2) in methanol (1 ml) was added potassiun carbonate (20 mg). The reaction mixture was stirred at room temperature for 40 minutes and then poured into water (20 ml) and ether (20 ml). The organic layer was separated, dried (MgSO4) and evaporated. The crude product was purified by column chromatography on silica gel eluted with ether to provide the title compound as a white solid.

reactant | 5-acetamido-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)4-trimethylsilylethynylpyrazole | C(C)(=O)NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)C#C[Si](C)(C)C | C18H15Cl2F3N4OSi
reactant | carbonate | 20 mg | C([O-])([O-])=O
reactant | water | 20 ml | O | H2O
reactant | ether | 20 ml | CCOCC | C4H10O
solvent | methanol | 1 ml | CO | CH4O
product | 5-Acetamido-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)4-ethynylpyrazole | C(C)(=O)NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)C#C | C15H7Cl2F3N4O
